US05153214
To a solution of 1.85 g (4.2 mmol) of methyl 2,2-dimethyl-4-[3-(3-pyridyl)propyl]-8-(t-butyldimethylsilyloxy)-octanoate in 2 ml dry tetrahydrofuran is added 4.8 ml (4.8 mmol) of 1M tetra-n-butylammonium fluoride in tetrahydrofuran and the mixture is stirred for 1 h. The reaction is quenched by addition of saturated ammonium chloride solution and the mixture is extracted with ethyl acetate. The organic phase is washed with water and brine, dried, filtered and concentrated. The residue is purified by silica gel chromatography using 4:1 ethylacetate/hexane as eluent to yield methyl 2,2-dimethyl-4-[3-(3-pyridyl)propyl]-8-hydroxyoctanoate as an oil; NMR (CDCl3): delta 3.59 (s,3H), 3.6 (m,2H), 2.58 (t,2H), 1.21 (s,6H).

reactant | methyl 2,2-dimethyl-4-[3-(3-pyridyl)propyl]-8-(t-butyldimethylsilyloxy)-octanoate | 4.2 mmol, 1.85 g | CC(C(=O)OC)(CC(CCCCO[Si](C)(C)C(C)(C)C)CCCC=1C=NC=CC1)C | C25H45NO3Si
reactant | tetra-n-butylammonium fluoride | 4.8 mmol, 1M, 4.8 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | methyl 2,2-dimethyl-4-[3-(3-pyridyl)propyl]-8-hydroxyoctanoate | CC(C(=O)OC)(CC(CCCCO)CCCC=1C=NC=CC1)C | C19H31NO3
